US09328096B2
Racemic-1-(1H-1,2,3-triazol-4-yl)ethanamine hydrochloride
Racemic-N-(1-(1H-1,2,3-triazol-4-yl)ethyl)-2-methylpropane-2-sulfinamide (Preparation 63, 1.09 g, 5.04 mmol) was dissolved in methanol (10 mL). 4M HCl in MeOH (10 mL) was added and the mixture was stirred at room temperature for 5 hours. The reaction was concentrated in vacuo and triturated with TBME (50 mL), diethyl ether (20 mL) and finally with acetonitrile (20 mL). The remaining gum was azeotroped with methanol (10 mL) followed by toluene (10 mL) to afford the title compound as a pale yellow gum (780 mg, 100%).

reactant | Racemic-N-(1-(1H-1,2,3-triazol-4-yl)ethyl)-2-methylpropane-2-sulfinamide | 5.04 mmol, 1.09 g | N1N=NC(=C1)C(C)NS(=O)C(C)(C)C | C8H16N4OS
reactant | HCl | 4M | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
solvent | MeOH | 10 mL | CO | CH4O
product | Racemic-1-(1H-1,2,3-triazol-4-yl)ethanamine hydrochloride | 780 mg, 100% | Cl.N1N=NC(=C1)C(C)N | InChI=1S/C4H8N4.ClH/c1-3(5)4-2-6-8-7-4;/h2-3H,5H2,1H3,(H,6,7,8);1H
